US06479524B1
a. 2-(4-iodobenzoyl)-1-methyl-imidazole
0.82 g (10 mmol) of 1-methyl-imidazole and 2.7 g (10 mmol) of 4-iodobenzoic acid chloride are combined in 10 ml of acetonitrile while cooling with an ice bath, 1.4 ml (10 mmol) of triethylamine are added and the mixture is then stirred for 16 hours at ambient temperature. The crude product is taken up in 30 ml of ethyl acetate, washed with H2O, dried, concentrated in vacuo and purified by flash chromatography (silica gel; methylene chloride).

reactant | 1-methyl-imidazole | 10 mmol, 0.82 g | CN1C=NC=C1 | C4H6N2
reactant | 4-iodobenzoic acid chloride | 10 mmol, 2.7 g | IC1=CC=C(C(=O)Cl)C=C1 | C7H4ClIO
reactant | triethylamine | 10 mmol, 1.4 ml | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
product | 2-(4-iodobenzoyl)-1-methyl-imidazole | IC1=CC=C(C(=O)C=2N(C=CN2)C)C=C1 | C11H9IN2O
